US04374829
N-(1(S)-Carboxy-3-Methylthiopropyl)-alanyl-L-proline
A solution of N-(1(S)-methoxycarbonyl-3-methylthiopropyl)-DL-alanyl-L-proline (127.5 mg; 0.384 mM) in 2 ml of water is treated under nitrogen with 7.82 ml 0.100 N sodium hydroxide (0.782 mM) and stirred for 21/2 hr. at room temperature. The product is absorbed from the reaction mixture onto 30 ml of Dowex 50 (H+) and eluted with 4% aqueous pyridine to yield 73.5 mg., which is further purified over a LH-B 20 column to yield 55.7 mg. of product. The nmr spectrum in D2O shows S-CH3 at 2.1; CH-CH3 at 1.5 and 1.6δ and no methyl ester. The mass spectrogram on silylated material shows the expected molecular ion at 462 m/e.

reactant | N-(1(S)-methoxycarbonyl-3-methylthiopropyl)-DL-alanyl-L-proline | 0.384 mM, 127.5 mg | COC(=O)[C@H](CCSC)NC(C)C(=O)N1[C@H](C(=O)O)CCC1 | C14H24N2O5S
reactant | sodium hydroxide | 0.100 N, 7.82 ml | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | N-(1(S)-Carboxy-3-Methylthiopropyl)-alanyl-L-proline | C(=O)(O)[C@H](CCSC)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C13H22N2O5S
